US09447046B2
Preparation 135a: N-methyl-1-benzo furan-6-amine
A mixture of 6-bromo-1-benzofuran (1.0 g, 5.1 mmol), methylamine (2N, 25 mL, 50 mmol), CuI (1.16 g, 6.1 mmol) and KOAc (1.25 g, 12.7 mmol) in DMF (10 mL) was stirred overnight at 100° C. under nitrogen in a sealed tube. The mixture was cooled to r.t., diluted with aqueous ammonium hydroxide, and extracted with EtOAc. The organic layer was concentrated, and the residue was purified by silica gel chromatography to give 250 mg (33%) of the title compound as a yellow oil. [M+H] Calc'd for C9H9NO, 148. Found, 148.

reactant | 6-bromo-1-benzofuran | 5.1 mmol, 1.0 g | BrC1=CC2=C(C=CO2)C=C1 | C8H5BrO
reactant | methylamine | 50 mmol, 2N, 25 mL | CN | CH5N
reactant | KOAc | 12.7 mmol, 1.25 g | CC(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | CuI | 6.1 mmol, 1.16 g | [Cu]I
product | N-methyl-1-benzo furan-6-amine | 250 mg, 33% | CNC1=CC2=C(C=CO2)C=C1 | C9H9NO
